US08106070B2
1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (680 mg, 0.83 mmol) was added to a degassed solution of methyl 2-(acetylamino)-3-(4-bromophenyl)propanoate (5 g, 16.7 mmol) and bis(pinacolato)diboron (4.65 g, 18.3 mmol) in DMSO (50 mL) at ambient temperature. After stirring at 85° C. overnight, the reaction mixture was diluted with water and extracted with diethyl ether. The combined organic extracts were dried (magnesium sulfate) and concentrated. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded methyl 2-(acetylamino)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate.

reactant | methyl 2-(acetylamino)-3-(4-bromophenyl)propanoate | 16.7 mmol, 5 g | C(C)(=O)NC(C(=O)OC)CC1=CC=C(C=C1)Br | C12H14BrNO3
reactant | bis(pinacolato)diboron | 18.3 mmol, 4.65 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl 2-(acetylamino)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate | C(C)(=O)NC(C(=O)OC)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H26BNO5
